US04513002
A mixture of 80.0 g of 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-ethanol, 195.7 ml of dry ethanol, 2.0 l of dry tetrahydrofuran and 3.2 l of dry distilled ammonia, stirred under argon, is treated at -30° to -31° with 25.09 g of sodium (3 to 4 pieces). After the exothermic reaction has faded, the mixture is stirred for about an additional 10 minutes and subsequently treated portionwise with a total of 60 g of ammonium chloride. After removal of the ammonia, the suspension remaining is washed three times with 800 ml of saturated ammonium chloride solution each time. The aqueous extracts are extracted twice with 1.5 l of ether each time. The organic phases are washed with 800 ml of water, combined, dried and evaporated in vacuo. There is obtained crude 4,5,10,11-tetrahydro-1H-dibenzo[a,d]cycloheptene-5-ethanol in the form of an oil which is used in the next step without further purification.

reactant | 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-ethanol | 80.0 g | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)CCO | C17H18O
reactant | ethanol | 195.7 ml | C(C)O | C2H6O
reactant | ammonium chloride | 60 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2.0 l | O1CCCC1 | C4H8O
product | 4,5,10,11-tetrahydro-1H-dibenzo[a,d]cycloheptene-5-ethanol | C1C=CCC=2C(C3=C(CCC21)C=CC=C3)CCO | C17H20O
